US06797726B1
In 8 mL of N,N-dimethylformamide is dissolved 0.80 g of 2-(2-benzo[b]thiophen-5-ylethoxy)ethyl methanesulfonate, to which are added 0.73 mL of dipropylamine and 0.74 g of potassium carbonate. The resulting mixture is stirred at 80° C. for 3 hours. The reaction mixture is introduced into a mixture of water and ethyl acetate, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent:chloroform:methanol=10:1). Thus, 0.60 of N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N,N-dipropylamine is obtained as an oily product.

reactant | 2-(2-benzo[b]thiophen-5-ylethoxy)ethyl methanesulfonate | 0.80 g | CS(=O)(=O)OCCOCCC1=CC2=C(SC=C2)C=C1 | C13H16O4S2
reactant | dipropylamine | 0.73 mL | C(CC)NCCC | C6H15N
reactant | potassium carbonate | 0.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-N,N-dipropylamine | S1C2=C(C=C1)C=C(C=C2)CCOCCN(CCC)CCC | C18H27NOS
